US07846959B2
To a solution of 2-(4-chloro-3-nitrobenzoyl)benzoic acid (6.76 g, 22.00 mmol) in anhydrous dichloromethane (35 ml) at 0° C. pyridine (1.80 ml, 22.00 mmol) was added, followed by the dropwise addition of cyanuric fluoride (2.0 ml, 24.20 mmol) in dichloromethane (4.0 mL). The reaction mixture was stirred for 100 minutes at 0° C. Water (35 mL) was added to the reaction mixture and it was stirred for 10 min at 0° C. The resulting slurry was filtered through a pad of Celite and it was washed with dichloromethane. The filtrate was partitioned with water and the dichloromethane layer was washed with water and it was dried over anhydrous sodium sulfate. Filtration and concentration provided 3-(4-chloro-3-nitrophenyl)-3-fluoro-2-benzofuran-1(3H)-one, (6.10 g, 90% yield) as a crystalline solid, which was used without further purification. 1H NMR (400 MHz, DMSO-d6): 8.34 (d, J=2 Hz, 1H), 8.20 (dd, J1=8 Hz, J2=0.8 Hz, 1H), 8.01-7.94 (m, 3H), 7.86 (td, J1=8 Hz, J2=1.2 Hz, 1H), 7.72 (d, J=7.6 Hz, 1H); MS (EI) for C14H7ClFlNO4: 306 (M−).

reactant | 2-(4-chloro-3-nitrobenzoyl)benzoic acid | 22.00 mmol, 6.76 g | ClC1=C(C=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1)[N+](=O)[O-] | C14H8ClNO5
reactant | pyridine | 22.00 mmol, 1.80 ml | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 24.20 mmol, 2.0 ml | N1=C(F)N=C(F)N=C1F | C3F3N3
reactant | Water | 35 mL | O | H2O
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
product | 3-(4-chloro-3-nitrophenyl)-3-fluoro-2-benzofuran-1(3H)-one | 6.10 g, 90% yield | ClC1=C(C=C(C=C1)C1(OC(C2=C1C=CC=C2)=O)F)[N+](=O)[O-] | C14H7ClFNO4
